US07666879B2
3-Morpholin-4-ylmethyl-5-trifluoromethyl-phenylamine
Dissolve (3-amino-5-trifluoromethyl-phenyl)-morpholin-4-yl-methanone (1.2 g, 4.3 mmol) in THF and dropwise and add BH3-Me2S solution (6.5 mL, 13.1 mmol, 2M in THF). Stir at room temperature for 3 hours. Add another portion of BH3-Me2S solution (2.2 mL, 4.3 mmol, 2M in THF) and heat at 65° C. for 1.5 hours under nitrogen. Cool to room temperature and quench carefully with dropwise addition of 1 N HCl:water 1:1 (8 mL), stir for 30-60 minutes. Extract by EtOAc and wash with saturated aqueous NaHCO3 and aqueous saturated sodium chloride. Purification by silica gel column chromatography with gradient from 100% DCM to 6% MeOH in DCM to 5% (2N NH3 in MeOH)/in DCM, yielding the title compound (600 mg, 54% yield). LCMS (ES), m/z 261 (M+1).

reactant | (3-amino-5-trifluoromethyl-phenyl)-morpholin-4-yl-methanone | 4.3 mmol, 1.2 g | NC=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CCOCC1 | C12H13F3N2O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-Morpholin-4-ylmethyl-5-trifluoromethyl-phenylamine | 600 mg, 54% yield | N1(CCOCC1)CC=1C=C(C=C(C1)C(F)(F)F)N | C12H15F3N2O
